US07572831B2
Synthesis of 2-hydroxychalcone (1-phenyl-3-(2-hydroxyphenyl)prophenone)
The previous product was mixed with acetophenone (2 g) suspended in methanol at −10° C. and stirred for 5 hr at room temperature. After neutralization with 5% hydrochloric acid solution, the product was extracted with 200 Ml of ethylacetate. The extracted organic phase was dried with anhydrous magnesium sulfate, and resulting 1-phenyl-3-(2-methoxymethyloxyphenyl)-prophenone was hydrolyzed with dilute alkaline solution. The reaction mixture was extracted with 200 Ml of ethylacetate. Extracted organic phase is dried with anhydrous magnesium sulfate and evaporated under vacuum. About 0.9 g of white solid (1-phenyl-3-(2-hydroxyphenyl)prophenone was obtained and subjected to silica gel column chromatography (5×3 cm, Merk). After being eluted with n-hexane:ethylacetate (v/v, 1:7), 0.7 g of purified compound was recovered and identified as follows:

reactant | acetophenone | 2 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | methanol | CO | CH4O
product | 2-hydroxychalcone | 0.9 g | OC1=C(C=CC=C1)C=CC(=O)C1=CC=CC=C1 | C15H12O2
